US07820672B2
b) 5-Chloro-2-methyl-4-nitro-indole-1-carboxylic acid methyl ester
5-Chloro-2-methyl-4-nitro-1H-indole (1.62 g, 7.69 mmol) is dissolved under an atmosphere of argon in dry DMF (30 ml). After addition of a NaH suspension (60% in mineral oil, 369 mg, 9.22 mmol) the mixture is stirred for 1 hour at RT. Methyl chloroformate (0.72 ml, 9.22 mmol) is added slowly during 10 minutes, and the reaction mixture is stirred at RT for 1 hour to form a yellowish suspension. After filtration and drying, the title compound is obtained in pure form. 1H NMR (DMSO, 400 MHz) δ 2.53 (s, 3H), 4.06 (s, 3H), 6.71 (s, 1H), 7.57 (d, J=9.0 Hz, 1H), 8.30 (d, J=9.0 Hz, 1H); ES-MS: 268 [M+H]+.

reactant | 5-Chloro-2-methyl-4-nitro-1H-indole | 7.69 mmol, 1.62 g | ClC=1C(=C2C=C(NC2=CC1)C)[N+](=O)[O-] | C9H7ClN2O2
reactant | NaH | 9.22 mmol, 369 mg | [H-].[Na+]
reactant | Methyl chloroformate | 9.22 mmol, 0.72 ml | ClC(=O)OC | C2H3ClO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-2-methyl-4-nitro-indole-1-carboxylic acid methyl ester | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)[N+](=O)[O-])C | C11H9ClN2O4
